US06340759B1
Synthesis of 1-(4-ethylpiperazin-1-yl)-3-[4-(3-hydroxy-2,2-dimethylpropyl)phenyl]isoquinoline oxalate
The resulting 1-(4-ethylpiperazin-1-yl)-3-[4-(2-methoxycarbonyl-2-methylpropyl)phenyl]isoquinoline (1.51 g) was dissolved in tetrahydrofuran (10 ml). The solution was added to a suspension of lithium aluminum hydride (0.14 g) in tetrahydrofuran (20 ml) under cooling with a cooler of sodium chloride and ice, and the mixture was stirred for another 30 min. To the resulting solution were sequentially added water (140 ml), a 5N aqueous solution of sodium hydroxide (140 ml) and water (420 ml), and the resulting precipitates were filtered off. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (toluene/acetone system), to give 0.90 g of the free compound of the title compound as a pale brown viscous oil.

reactant | 1-(4-ethylpiperazin-1-yl)-3-[4-(2-methoxycarbonyl-2-methylpropyl)phenyl]isoquinoline | 1.51 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)CC(C)(C)C(=O)OC | C27H33N3O2
reactant | lithium aluminum hydride | 0.14 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium chloride | [Cl-].[Na+]
reactant | water | 140 ml | O | H2O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(4-ethylpiperazin-1-yl)-3-[4-(3-hydroxy-2,2-dimethylpropyl)phenyl]isoquinoline oxalate | 0.90 g | C(C(=O)O)(=O)O.C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)CC(CO)(C)C | InChI=1S/C26H33N3O.C2H2O4/c1-4-28-13-15-29(16-14-28)25-23-8-6-5-7-22(23)17-24(27-25)21-11-9-20(10-12-21)18-26(2,3)19-30;3-1(4)2(5)6/h5-12,17,30H,4,13-16,18-19H2,1-3H3;(H,3,4)(H,5,6)
